US06660742B2
Triphenylphosphine (1.92 g, 7.33 mmol), CBr4 (7.28 g, 21.96 mmol), and dry CH3CN (16.6 mL) were added to a round bottom flask containing 2-(4-benzyloxy-2-nitrophenyl)ethanol (1.00 g, 3.66 mmol). A red solution resulted which was allowed to stir overnight under a positive pressure of nitrogen. The solution was checked by TLC (20% EtOAc/hexane) and concentrated down on a rotoevaporator. The excess CBr4 was removed by vacuum kugelrohr distillation (60° C., 0.25 mmHg). Column chromatography (SiO2, 10% EtOAc/5% CHCl3/85% petroleum ether gradient elution) afforded 2-(4-benzyloxy-2-nitrophenyl)ethyl bromide as a brownish solid (1.33 g, 3.56 mmol, 92%). Mp 30-34° C.; TLC (20% EtOAc/hexane) Rf=0.48; 1H-NMR (CDCl3, 500 MHz) 7.52 (d, 2.5, 1H), 7.34 (m, 5H), 7.24 (d, 8.5, 1H), 7.11 (dd, 2.5, 8.5, 1H), 5.04 (s, 2H), 3.57 (t, 7.0, 2H), 3.30 (t, 7.0, 2H); 13C-NMR (CDCl3, 125 MHz) 158.0, 149.4, 135.6, 133.8, 128.7, 128.4, 127.5, 125.8, 120. 5, 110.8, 70.6, 35.9, 32.0; IR (neat) 3070, 3027, 2919, 2855, 1618, 1570, 1526, 1499, 1451, 1408, 1381, 1343, 1289, 1262, 1240, 1149, 1025, 842, 804, 733, 695; EI-MS m/z (relative intensity) 335 (M+, 9); isotope pattern of M+ and M++2 agrees with the presence of one bromine atom. Accurate mass (EI-MS) for C15H14NO3Br: calcd. 335.0157, obsd. 335.0160.

reactant | Triphenylphosphine | 7.33 mmol, 1.92 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | CBr4 | 21.96 mmol, 7.28 g | C(Br)(Br)(Br)Br | CBr4
reactant | CH3CN | 16.6 mL | CC#N | C2H3N
reactant | 2-(4-benzyloxy-2-nitrophenyl)ethanol | 3.66 mmol, 1.00 g | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)CCO)[N+](=O)[O-] | C15H15NO4
solvent | EtOAc hexane | CCOC(=O)C.CCCCCC
product | 2-(4-benzyloxy-2-nitrophenyl)ethyl bromide | 3.56 mmol, 1.33 g, 92% | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)CCBr)[N+](=O)[O-] | C15H14BrNO3
